US07601739B2
A. Synthesis of N-Butyl-11-bromoundecanamide
11-Bromoundecanoic acid (45 mmol) was dissolved in dry CH2Cl2 (200 ml) and tributylamine (54 mmol). After the mixture had cooled at −10° C., isobutylchlorofomate (60 mmol) was added and allowed to react for 2 hrs. At this moment, excess N-butylamine (225 mmol) was added and later the cooling bath was removed. After 3 hrs, CH2Cl2 was added and the organic phase was washed with 1 N HCl, saturated NaHCO3, and water. After drying by MgSO4, the solvent was removed and the crude product was purified by column chromatography. The pure amide product was eluted with solvent, hexane (80)—EtOAc (20).

reactant | 11-Bromoundecanoic acid | 45 mmol | BrCCCCCCCCCCC(=O)O | C11H21BrO2
reactant | tributylamine | 54 mmol | C(CCC)N(CCCC)CCCC | C12H27N
reactant | N-butylamine | 225 mmol | C(CCC)N | C4H11N
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
product | N-Butyl-11-bromoundecanamide | C(CCC)NC(CCCCCCCCCCBr)=O | C15H30BrNO
